US07294635B2
To a slolution of [2-(3-bromo-4-nitro-phenyl)-7-fluoro-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester (10 mg, 0.02 mmol) in DMSO 0.5 ml, sodium methanesulfinate (62 mg, 0.06 mmol) was added. The reaction mixture was subjected to microwave irradiation (temperature 12° C.) for 45 seconds. A precipitate was formed and collected by filtration to give [7-fluoro-2-(3-methanesulfonyl-4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester.

reactant | [2-(3-bromo-4-nitro-phenyl)-7-fluoro-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester | 0.02 mmol, 10 mg | C(C)(C)(C)OC(N(C)C=1C=C2C=CN(C(C2=CC1F)=O)C1=CC(=C(C=C1)[N+](=O)[O-])Br)=O | C21H19BrFN3O5
reactant | sodium methanesulfinate | 0.06 mmol, 62 mg | CS(=O)[O-].[Na+]
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | [7-fluoro-2-(3-methanesulfonyl-4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C=1C=C2C=CN(C(C2=CC1F)=O)C1=CC(=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)=O | C22H22FN3O7S
